US04921855
To a solution of N-t-butoxycarbonyl-L-histidine (363 mg) and 2(S)-amino-1-cyclohexyl-3(S)-hydroxy-6-methylheptane (294 mg) in dry N,N-dimethylformamide (30 ml) which was cooled to 0° C., were added a solution of diphenyl phosphorylazide (390 mg) in dry N,N-dimethylformamide (5 ml) and triethylamine (144 mg). The mixture was stirred overnight at ambient temperature. After evaporation of the solvent, the residue was dissolved in ethyl acetate (30 ml) and the solution was washed with 10% citric acid solution, saturated sodium bicarbonate solution and water successively, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified with silica gel column chromatography (chloroform as eluent) to give 2(S)-(N-t-butoxycarbonyl-L-histidyl)amino-1-cyclohexyl-3(S)-hydroxy-6-methylheptane (384 mg) as an amorphous powder.

reactant | N-t-butoxycarbonyl-L-histidine | 363 mg | C(C)(C)(C)OC(=O)N[C@@H](CC1=CNC=N1)C(=O)O | C11H17N3O4
reactant | 2(S)-amino-1-cyclohexyl-3(S)-hydroxy-6-methylheptane | 294 mg | N[C@@H](CC1CCCCC1)[C@H](CCC(C)C)O | C14H29NO
reactant | diphenyl phosphorylazide | 390 mg | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 144 mg | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2(S)-(N-t-butoxycarbonyl-L-histidyl)amino-1-cyclohexyl-3(S)-hydroxy-6-methylheptane | 384 mg | C(C)(C)(C)OC(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CC1CCCCC1)[C@H](CCC(C)C)O | C25H44N4O4
